US08012966B2
2-[5-Fluoro-6-(4-fluoro-benzylamino)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 25 with 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-fluoro-6-(4-fluoro-benzylamino)-1,3-dihydro-indol-2-one as starting materials to give 2-[5-fluoro-6-(4-fluoro-benzylamino)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (44 mg, 65.1%) as a red solid.

reactant | 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=O | C16H23N3O2
reactant | 5-fluoro-6-(4-fluoro-benzylamino)-1,3-dihydro-indol-2-one | FC=1C=C2CC(NC2=CC1NCC1=CC=C(C=C1)F)=O | C15H12F2N2O
product | 2-[5-fluoro-6-(4-fluoro-benzylamino)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-piperidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 44 mg, 65.1% | FC=1C=C2C(C(NC2=CC1NCC1=CC=C(C=C1)F)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCCC1)=O)C | C31H33F2N5O2
